US07842696B2
10% Pd/C (60 mg) was added to a stirred solution of 4-hydroxycinnamic acid (325 mg, 1.98 mmol) in MeOH (15 mL) under an inert atmosphere. Hydrogen gas was then passed through the reaction mixture by means of a hydrogen filled bladder and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was filtered over celite and the celite was washed with MeOH. The filtrate was collected and concentrated under reduced pressure to afford 310 mg (94.5% yield) of 3-[4-hydroxy phenyl]propionic acid as a white solid. 1H NMR (DMSO): δ 7.0 (d, 2H), 6.6 (d, 2H), 2.35 (t, 2H), 2.25 (t, 2H), LC-MS purity: 96.55%.

reactant | 4-hydroxycinnamic acid | 1.98 mmol, 325 mg | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | Hydrogen | [H][H] | H2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 3-[4-hydroxy phenyl]propionic acid | 310 mg, 94.5% yield | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
